US07745449B2
A 2.5 ml glass microwave reaction vessel was charged with 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide: (0.020 g, 0.058 mmol), acetonitrile (1 ml), morpholine (0.015 g, 0.17 mmol). The reaction mixture was heated in a Smith Synthesizer microwave reactor (Personal Chemistry, Inc., Upssala, Sweden) at 150° C. for 50 min. The solvent was evaporated under reduced pressure and the crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 5% to 95% MeOH in DCM to provide N-cyclopropyl-4-methyl-3-(7-morpholinothieno[2,3-d]pyridazin-2-yl)benzamide (0.016 g) MS (ES+): 395 (M+H)+.

reactant | 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide | ClC=1N=NC=C2C1SC(=C2)C=2C=C(C(=O)NC1CC1)C=CC2C | C17H14ClN3OS
reactant | morpholine | 0.17 mmol, 0.015 g | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-cyclopropyl-4-methyl-3-(7-morpholinothieno[2,3-d]pyridazin-2-yl)benzamide | 0.016 g | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC=2C(=C(N=NC2)N2CCOCC2)S1)=O | C21H22N4O2S
